US07253286B2
4-(4-(4-Aminophenoxy)-6-cyanoquinolin-7-yloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester
After treating 4-(4-aminophenoxy)-7-hydroxyquinoline-6-carbonitrile (0.32 g) with sodium hydride in dimethylformamide in the same manner as Production Example 713-2, it was reacted with 4-bromoethylpiperidine-1-carboxylic acid tert-butyl ester to obtain the title compound (225 mg) as a solid.

reactant | 4-(4-aminophenoxy)-7-hydroxyquinoline-6-carbonitrile | 0.32 g | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)C#N)O)C=C1 | C16H11N3O2
reactant | sodium hydride | [H-].[Na+]
reactant | 4-bromoethylpiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCBr | C12H22BrNO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-(4-Aminophenoxy)-6-cyanoquinolin-7-yloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | 225 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)N)C#N | C27H30N4O4
